US07943774B2
2-[2-Chloro-5-(trifluoromethyl)phenyl]-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (I-67)
4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1, 309 mg) is reacted analogously to Example I-63 with [2-chloro-5-(trifluoromethyl)phenyl]acetic acid (262 mg). After chromatographic purification, this gives 2-[2-chloro-5-(trifluoromethyl)phenyl]-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (210 mg).

reactant | 4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 309 mg | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1
reactant | [2-chloro-5-(trifluoromethyl)phenyl]acetic acid | 262 mg | ClC1=C(C=C(C=C1)C(F)(F)F)CC(=O)O | C9H6ClF3O2
product | 2-[2-Chloro-5-(trifluoromethyl)phenyl]-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | ClC1=C(C=C(C=C1)C(F)(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)CCC1=CC=CC=C1 | C25H24ClF3N2OS
